US07648985B2
4-{[7-(2-aminoethyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]methyl}benzonitrile, hydrochloride salt.
A saturated solution of HCl in ethyl acetate (200 mL) was added to an ice-cooled slurry of the acetic and formic acid salt of tert-butyl {2-[7-(4-cyanobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]ethyl}carbamate (7.00 g, 14.2 mmol). The reaction mixture was stirred at room temperature for 3 hours after which it was filtered and the resultant solid was washed with ethyl acetate. Drying in vacuo gave 6.12 g (96%) of the title compound with one equivalent of residual ethyl acetate.

reactant | HCl | Cl | ClH
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | formic acid | C(=O)O | CH2O2
reactant | tert-butyl {2-[7-(4-cyanobenzyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]ethyl}carbamate | 14.2 mmol, 7.00 g | C(#N)C1=CC=C(CN2CC3CN(CC(C2)O3)CCNC(OC(C)(C)C)=O)C=C1 | C21H30N4O3
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | one equivalent | C(C)(=O)OCC | C4H8O2
product | 4-{[7-(2-aminoethyl)-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl]methyl}benzonitrile, hydrochloride salt | 6.12 g, 96% | Cl.NCCN1CC2CN(CC(C1)O2)CC2=CC=C(C#N)C=C2 | InChI=1S/C16H22N4O.ClH/c17-5-6-19-9-15-11-20(12-16(10-19)21-15)8-14-3-1-13(7-18)2-4-14;/h1-4,15-16H,5-6,8-12,17H2;1H
